US07897597B2
N-[2-(4-Amino-7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]acetamide (0.72 g, 1.56 mmol) was dissolved in 200 mL of warm ethanol. 10% Palladium on carbon (0.33 g) was added and the mixture was shaken overnight under 50 psi (3.4×105 Pa) of hydrogen. The reaction was filtered through CELITE filter agent, and the filtrate was removed under reduced pressure. The resulting brown solid was purified by flash column chromatography on silica gel, eluting with 14% methanol in dichloromethane. The fractions containing the desired product were combined and further purified by column chromatography on a HORIZON HPFC system. A silica gel cartridge was used with the eluent being a gradient of 30-50% CMA in chloroform. The clean fractions were combined and concentrated under reduced pressure to provide 0.23 g of N-[2-(4-amino-2-ethoxymethyl-7-hydroxy-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]acetamide as an off-white solid, m.p. 140° C.

reactant | N-[2-(4-Amino-7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]acetamide | 1.56 mmol, 0.72 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)NC(C)=O)COCC)OCC2=CC=CC=C2 | C26H31N5O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | Palladium on carbon | 0.33 g | [Pd] | Pd
product | N-[2-(4-amino-2-ethoxymethyl-7-hydroxy-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]acetamide | 0.23 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)NC(C)=O)COCC)O | C19H25N5O3
